US07119205B2
3-(4-Bromo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester
To a solution of 4-(4-bromo-phenyl)-2-(2-ethoxycarbonyl-acetylamino)-thiophene-3-carboxylic acid ethyl ester (4.98 g, 11.3 mmol) in DMF (30 mL) at 0° C. was added a dispersion of sodium hydride in mineral oil (60%, 2.73 g, 68.2 mmol). After warming to ambient temperature the reaction was stirred overnight. Aqueous HCl (1.2 M, 100 mL) was added while cooling the mixture to 0° C. After stirring 1 h. the mixture was filtered and washed with H2O and hexanes giving the titled compound (2.85 g, 64%) as a gray solid.

reactant | 4-(4-bromo-phenyl)-2-(2-ethoxycarbonyl-acetylamino)-thiophene-3-carboxylic acid ethyl ester | 11.3 mmol, 4.98 g | C(C)OC(=O)C1=C(SC=C1C1=CC=C(C=C1)Br)NC(CC(=O)OCC)=O | C18H18BrNO5S
reactant | sodium hydride | [H-].[Na+]
reactant | HCl | 1.2 M, 100 mL | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 3-(4-Bromo-phenyl)-4-hydroxy-6-oxo-6,7-dihydro-thieno[2,3-b]pyridine-5-carboxylic acid ethyl ester | C(C)OC(=O)C1=C(C2=C(NC1=O)SC=C2C2=CC=C(C=C2)Br)O | C16H12BrNO4S
